US07576115B2
1) Synthesis of 3-acetamino-4-methoxycarbonylbenzoic acid
Acetic anhydride (1.89 mL, 20 mmol) was added to a suspension of 3-amino-4-methoxycarbonylbenzoic acid (1.95 g, 10 mmol) in acetic acid (10 mL), and the mixture was heated with reflux for 6 hours. After cooling, the precipitated solid was filtered to obtain 2.12 g of the desired product as a colorless solid (yield 89%).

reactant | Acetic anhydride | 20 mmol, 1.89 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-amino-4-methoxycarbonylbenzoic acid | 10 mmol, 1.95 g | NC=1C=C(C(=O)O)C=CC1C(=O)OC | C9H9NO4
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 3-acetamino-4-methoxycarbonylbenzoic acid | 2.12 g, yield 89% | N(C(=O)C)C=1C=C(C(=O)O)C=CC1C(=O)OC | C11H11NO5
